US06410736B1
5-Bromo-2-(3,4-dichlorophenoxy)-N-methylbenzylamine
Under N2, a solution of methylamine (2.9 mL, 5.8 mmol, 2.0 M solution in CH3OH) in 20 mL of ethanol was treated with titanium (IV) isopropoxide (1.7 mL, 5.8 mmol) at room temperature. After 5 min., a suspension of 5-bromo-2-(3,4-dichlorophenoxy)-benzaldehyde (1.0 g, 2.9 mmol, the title compound of Preparation 1) in 20 mL of ethanol was added and stirred for 16 hr at room temperature. Sodium borohydride (0.165 g, 4.4 mmol) was then added and stirring was continued for an additional 24 hr, at which time the reaction was quenched by the addition of 5 mL of 6 N HCl and 5 mL of water, stirred for 30 min and made basic by the addition of saturated aqueous Na2CO3. The resulting mixture was extracted with EtOAc, and the organic extracts were clarified by filtration throught diatomaceous earth (d.e.), washed with saturated NaCl, dried over Na2CO3and concentrated in vacuo to a clear oil, 0.987 mg.

reactant | methylamine | 5.8 mmol, 2.0 M, 2.9 mL | CN | CH5N
reactant | 5-bromo-2-(3,4-dichlorophenoxy)-benzaldehyde | BrC=1C=CC(=C(C=O)C1)OC1=CC(=C(C=C1)Cl)Cl | C13H7BrCl2O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | titanium (IV) isopropoxide | 5.8 mmol, 1.7 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 5-Bromo-2-(3,4-dichlorophenoxy)-N-methylbenzylamine | BrC=1C=CC(=C(CNC)C1)OC1=CC(=C(C=C1)Cl)Cl | C14H12BrCl2NO
